US07232833B2
0.704 g of 10% palladium on carbon (Pd/C) and then 11.5 g of ammonium formate are successively added at a temperature in the region of 20° C., under an argon atmosphere, to 5 g (22.8 mmol) of methyl (±)-1-(phenylmethyl)-3-pyrrolidinecarboxylate in solution in 100 cm3 of methanol. After stirring for 3 hours at the reflux temperature, the reaction mixture is filtered on Celite®. The Celite® is rinsed with 3 times 20 cm3 of methanol. The filtrate is then concentrated to dryness under reduced pressure (2.7 kPa) to give 2.5 g of methyl (±)-3-pyrrolidinecarboxylate in the form of a colorless oil.

reactant | ammonium formate | 11.5 g | C(=O)[O-].[NH4+]
reactant | methyl (±)-1-(phenylmethyl)-3-pyrrolidinecarboxylate | 22.8 mmol, 5 g | C1(=CC=CC=C1)CN1CC(CC1)C(=O)OC | C13H17NO2
catalyst | palladium on carbon | 0.704 g | [Pd] | Pd
solvent | methanol | 100 cm3 | CO | CH4O
product | methyl (±)-3-pyrrolidinecarboxylate | 2.5 g | N1CC(CC1)C(=O)OC | C6H11NO2
